US08791132B2
2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline (500 mg, 2.5 mmol) was dissolved in 5 mL DMF and sodium hydride (250 mg, 6.24 mmol) was added portionwise at 0° C. and the mixture stirred for 10 min. 2-(4-Fluoro-phenyl)-oxirane (450 mg, 3.26 mmol) was added dropwise at same temperature and stirred for 12 h at RT. The reaction was monitored by TLC & LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water. The resultant solid was filtered and washed with water (100 mL) and hexane (100 mL), and the crude product was crystallized in EtOH:hexane (5:95 ratio) to obtain 300 mg of 2-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-1-(4-fluoro-phenyl)-ethanol. 1H NMR (CDCl3, Free base) δ (ppm): 7.30 (m, 2H), 7.20 (d, 1H), 7.05 (m, 3H), 7.0 (d, 1H), 5.0 (t, 1H), 4.05 (d, 2H), 3.62 (d, 1H), 3.30 (d, 1H), 2.80 (m, 3H), 2.70 (m, 1H), 2.50 (s, 3H), 2.44 (s, 3H). Separation by chiral HPLC provided enantiomers 18a and 18b. Optical rotations: Compound 18a, (−)6.97 (c 0.56, Chloroform, 89.35% HPLC purity); Compound 18b, (+)13.03 (c 0.51, Chloroform, 99.51% HPLC purity).

reactant | 2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline | 2.5 mmol, 500 mg | CN1CC=2NC3=CC=C(C=C3C2CC1)C | C13H16N2
reactant | sodium hydride | 6.24 mmol, 250 mg | [H-].[Na+]
reactant | 2-(4-Fluoro-phenyl)-oxirane | 3.26 mmol, 450 mg | FC1=CC=C(C=C1)C1OC1 | C8H7FO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-1-(4-fluoro-phenyl)-ethanol | 300 mg | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CC(O)C1=CC=C(C=C1)F | C21H23FN2O
